US04409214
To a solution of benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.5 g) in anisole (2.5 ml) and methylene chloride (5.0 ml) was added trifluoroacetic acid (10.0 ml) under ice-cooling, and the mixture was stirred at ambient temperature for 2 hours. To the reaction mixture was added dropwise diisopropyl ether, and the precipitated crystals were collected by filtration, washed with diisopropyl ether to obtain 7-[2-carboxymethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.57 g).

reactant | benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C34H33N5O8S2
reactant | trifluoroacetic acid | 10.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-carboxymethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.57 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C17H15N5O8S2
